US07722783B2
Firstly, 75.0 g of 4-bromo-3-fluorophenol (S3-1), 82.9 g of 3,4,5-trifluoro-phenylboric acid (S3-2), 13.6 g of tetrakis(triphenylphosphine)palladium, 108.5 g of sodium carbonate and 1100 ml of a mixed solvent of dimethoxyethane/water=2/1 (volume ratio) were added into a reactor under nitrogen atmosphere, heated to 80° C., and stirred for 4 hours. Next, the reaction solution was cooled to room temperature, added with toluene, and then washed with 1N HCl(aq) and water. Afterwards, the solution was dried with magnesium sulphate, and distilled under reduced pressure to remove the solvent. Subsequently, the product was purified by silica-gel column chromatography with heptane/ethyl acetate (4/1) as an eluent, and then dried under reduced pressure. The obtained residue was recrystallized in heptane, to obtain 77.5 g of 3-fluoro-4-(3,4,5-trifluorophenyl)phenol (S3-3). The yield of compound (S3-3) from (S3-1) was 81.5%.

reactant | 4-bromo-3-fluorophenol | 75.0 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | 3,4,5-trifluoro-phenylboric acid | 82.9 g | FC=1C=C(C=C(C1F)F)OB(O)O | C6H4BF3O3
reactant | sodium carbonate | 108.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dimethoxyethane water | C(OC)COC.O
catalyst | tetrakis(triphenylphosphine)palladium | 13.6 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-4-(3,4,5-trifluorophenyl)phenol | 77.5 g | FC=1C=C(C=CC1C1=CC(=C(C(=C1)F)F)F)O | C12H6F4O
